US05981572
N-[3-(7-Fluoro-2,3-dihydro-benzofuran-4-yl)-propyl]-acetamide
Acetic anhydride (0.18 ml) was added dropwise to a solution of 3-(7-fluoro-2,3-dihydro-benzofuran-4-yl)-propylamine (256 mg) in, dry THF (10 ml) containing pyridine (0.21 ml) at 0° under nitrogen and the solution stirred overnight at room temperature. The solution was evaporated and the residue purified by column chromatography. Eluting with dichloromethane:methanol: (50:1) gave the title compound as a colouriess oil (133 mg)

reactant | Acetic anhydride | 0.18 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-(7-fluoro-2,3-dihydro-benzofuran-4-yl)-propylamine | 256 mg | FC1=CC=C(C=2CCOC21)CCCN | C11H14FNO
reactant | THF | 10 ml | C1CCOC1 | C4H8O
solvent | pyridine | 0.21 ml | N1=CC=CC=C1 | C5H5N
product | N-[3-(7-Fluoro-2,3-dihydro-benzofuran-4-yl)-propyl]-acetamide | FC1=CC=C(C=2CCOC21)CCCNC(C)=O | C13H16FNO2
